US08012986B2
2-Chloro-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine
The title compound was prepared from 4-(6-trifluoromethyl-pyridin-3-yl)-6-trifluoromethyl-1H-pyrimidin-2-one (6.87 g, 0.022 mol) and phosphoroxychloride (35 ml) according to the general procedure I. Obtained as a light brown solid (7.18 g, 99%). MS (ISP) 329.2 [(M+H)+]; mp 87° C.

reactant | 4-(6-trifluoromethyl-pyridin-3-yl)-6-trifluoromethyl-1H-pyrimidin-2-one | 0.022 mol, 6.87 g | FC(C1=CC=C(C=N1)C1=NC(NC(=C1)C(F)(F)F)=O)(F)F | C11H5F6N3O
reactant | phosphoroxychloride | 35 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | ClC1=NC(=CC(=N1)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C11H4ClF6N3
